US04243819
To a mixture of 10 g of ethyl crotonate, 40 ml of dioxane and 60 ml of water, at 0°, is slowly added 15 g of N-bromosuccinimide. After addition is complete, the reaction is allowed to stand at RT for 17 hr with stirring. The reaction is taken up in ether, washed with water and saturated sodium sulfite, dried over magnesium sulfate and evaporated under reduced pressure to yield ethyl 2-bromo-3-hydroxybutanoate.

reactant | ethyl crotonate | 10 g | C(\C=C\C)(=O)OCC | C6H10O2
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
reactant | water | 60 ml | O | H2O
reactant | N-bromosuccinimide | 15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ether | CCOCC | C4H10O
product | ethyl 2-bromo-3-hydroxybutanoate | BrC(C(=O)OCC)C(C)O | C6H11BrO3
